US05663447
2,2-Dimethyl-5-(4-chlorobenzylidene)-cyclopentanone
106 g of 2-methyl-5-(4-chlorobenzylidene)-cyclopentanone, 49.5 g of 85% strength aqueous potassium hydroxide solution, 8.3 g of potassium iodide and 400 g of tert-butanol were weighed in succession into a 700 ml stainless steel autoclave, and 50.5 g of methyl chloride were injected at 20° C. The mixture was stirred at room temperature for 23 hours and then 300 ml of tert-butanol were distilled off at 20 mbar up to an overhead temperature of max. 50° C. 400 ml of water were added to the residue, and the mixture was stirred thoroughly. The resulting suspension was filtered off over a suction filter, and the filter cake was washed twice with 200 ml of water each time and dried. 112.8 g of a pale beige solid were thus obtained with a purity of 89.5%. The yield of the crude product was 90.2% of theory.

reactant | 2-methyl-5-(4-chlorobenzylidene)-cyclopentanone | 106 g | CC1C(C(CC1)=CC1=CC=C(C=C1)Cl)=O | C13H13ClO
reactant | potassium hydroxide | [OH-].[K+]
reactant | potassium iodide | 8.3 g | [I-].[K+]
reactant | methyl chloride | 50.5 g | CCl | CH3Cl
solvent | tert-butanol | 400 g | C(C)(C)(C)O | C4H10O
product | 2,2-Dimethyl-5-(4-chlorobenzylidene)-cyclopentanone | 112.8 g | CC1(C(C(CC1)=CC1=CC=C(C=C1)Cl)=O)C | C14H15ClO
